US06313127B1
A solution of 1-(4-acetylphenyl)-4-(4-pyridyl)piperazine (1.0 g), benzaldehyde (177 mg) and concentrated sodium hydroxide (3 drops) in ethanol (25 ml) was stirred at ambient temperature overnight to give a solid which was filtered, washed with ethanol and dried to give 1-(4-cinnamoylphenyl)-4-(4-pyridyl)piperazine (310 mg), m.p. 208-210° C.

reactant | 1-(4-acetylphenyl)-4-(4-pyridyl)piperazine | 1.0 g | C(C)(=O)C1=CC=C(C=C1)N1CCN(CC1)C1=CC=NC=C1 | C17H19N3O
reactant | benzaldehyde | 177 mg | C(C1=CC=CC=C1)=O | C7H6O
catalyst | sodium hydroxide | 3 drops | [OH-].[Na+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 1-(4-cinnamoylphenyl)-4-(4-pyridyl)piperazine | 310 mg | C(C=CC1=CC=CC=C1)(=O)C1=CC=C(C=C1)N1CCN(CC1)C1=CC=NC=C1 | C24H23N3O
